US07625909B2
Step 1. Synthesis of trans-(t-butoxy)-N-(4-hydroxycyclohexyl)-carboxamide
A suspension of trans-4-aminocyclohexanol (1 equivalent) in THF (0.1 M) was treated with (Boc)2O (1 equivalent). The mixture was stirred at room temperature overnight, dissolved in chloroform, and washed with water to yield a solid that was used without further purification.

reactant | trans-4-aminocyclohexanol | 1 equivalent | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | (Boc)2O | 1 equivalent | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 0.1 M | C1CCOC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | trans-(t-butoxy)-N-(4-hydroxycyclohexyl)-carboxamide | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)O | C11H21NO3
